US08026234B2
2-Chloro-9-cyclopentyl-7-(1-hydroxyethyl)-5-methyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one:
In a round bottom flask, 2-chloro-9-cyclopentyl-5-methyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one (0.840 g, 3.0 mmol) was dissolved in dry tetrahydrofuran (12 mL), cooled to −78° C., then added 2.0 M lithium diisopropyl amide in tetrahydrofuran (6.0 mmol) drop wise. After 30 minutes, acetaldehyde (1.056 g, 24.0 mmol) in 6.0 mL tetrahydrofuran was added slowly drop wise to it, continued stirring for 60 minutes. After disappearing the starting material, cooled the reaction flask to −78° C., then quenched with sat. ammonium chloride solution (3 mL). At room temperature, the resultant reaction mixture was taken into ethyl acetate (50 mL), washed with 0.1 N HCl, ammonium chloride solution and finally with water, dried over sodium sulphate and evaporated. Purified the product using column chromatography with hexane:ethyl acetate mixtures to give the product (0.842 g, 86%). [M+H] calculated for C15H21ClN4O2, 325. found 325.

reactant | 2-chloro-9-cyclopentyl-5-methyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | 3.0 mmol, 0.840 g | ClC=1N=CC2=C(N(CCC(N2C)=O)C2CCCC2)N1 | C13H17ClN4O
reactant | lithium diisopropyl amide | 2.0 M | C(C)(C)[N-]C(C)C.[Li+]
reactant | acetaldehyde | 24.0 mmol, 1.056 g | C(C)=O | C2H4O
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6.0 mmol | O1CCCC1 | C4H8O
product | 2-Chloro-9-cyclopentyl-7-(1-hydroxyethyl)-5-methyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | 0.842 g, 86% | ClC=1N=CC2=C(N(CC(C(N2C)=O)C(C)O)C2CCCC2)N1 | C15H21ClN4O2
